US07888364B2
250 mg of 5-(methoxycarbonyl)picolinic acid was coupled to isopropylamine via Procedure G. Crude methyl 6-(isopropylcarbamoyl)nicotinate was hydrolyzed via Procedure M to yield 227 mg of 6-(isopropylcarbamoyl)nicotinic acid. 60 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 6-(isopropylcarbamoyl)nicotinic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield N5-(4-chloro-3-(pyridin-2-yl)phenyl)-N2-isopropylpyridine-2,5-dicarboxamide. MS (Q1) 395.1 (M)+.

reactant | 5-(methoxycarbonyl)picolinic acid | 250 mg | COC(=O)C=1C=CC(=NC1)C(=O)O | C8H7NO4
reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | methyl 6-(isopropylcarbamoyl)nicotinate | C(C)(C)NC(=O)C1=NC=C(C(=O)OC)C=C1 | C11H14N2O3
product | 6-(isopropylcarbamoyl)nicotinic acid | 227 mg | C(C)(C)NC(=O)C1=NC=C(C(=O)O)C=C1 | C10H12N2O3
